US05036075
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (75 g), triethylamine (37.5 cc) and 4-(4-nitrophenyl)piperazine (55.3 cc) in toluene (600 cc). The mixture is heated for 10 hours at boiling point, then cooled to a temperature of about 20° C. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with a mixture of dichloromethane and ethyl acetate as eluant (80-20 vol), and recrystallization from boiling methyl ethyl ketone (1100 cc), 2-{3-[4-(4-nitrophenyl)-1-piperazinyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide(41.8 g) is obtained, m.p. 186° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 75 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 37.5 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(4-nitrophenyl)piperazine | 55.3 cc | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
solvent | toluene | 600 cc | C1(=CC=CC=C1)C | C7H8
product | 2-{3-[4-(4-nitrophenyl)-1-piperazinyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 41.8 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H24N4O4S
